US07410986B2
A mixture of 2-amino-6-{2-[(4-methoxybenzyl)-oxy]phenyl}-4-{4-nitro-3-[2-(1-piperidinyl)ethoxy]-phenyl}-nicotinonitrile, SnCl2 and DMF was stirred at room temperature overnight. The usual work-up and column chromatography gave 2-amino-4-{4-amino-3-[2-(1-piperidinyl)ethoxy]phenyl}-6-{2-[(4-methoxybenzyl)oxy]-phenyl}nicotinonitrile.

reactant | 2-amino-6-{2-[(4-methoxybenzyl)-oxy]phenyl}-4-{4-nitro-3-[2-(1-piperidinyl)ethoxy]-phenyl}-nicotinonitrile | NC1=C(C#N)C(=CC(=N1)C1=C(C=CC=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)[N+](=O)[O-])OCCN1CCCCC1 | C33H33N5O5
reactant | SnCl2 | Cl[Sn]Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-amino-4-{4-amino-3-[2-(1-piperidinyl)ethoxy]phenyl}-6-{2-[(4-methoxybenzyl)oxy]-phenyl}nicotinonitrile | NC1=C(C#N)C(=CC(=N1)C1=C(C=CC=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)N)OCCN1CCCCC1 | C33H35N5O3
